US07060827B2
In a manner similar to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, 2-chloro-N4-[2-[(2-chloro-6-fluorobenzyl)thio]ethyl]-5-fluoro-4-pyrimidineamine and 3-aminophenol were reacted to yield N4-[2-[(2-chloro-6-fluorobenzyl)thio]ethyl]-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine. 1H NMR (methyl sulfoxide-d6): δ 9.76 (bs, 1H), 9.42 (bs, 1H), 8.70 (bs, 1H), 8.02 (d, 1H, J=5.1 Hz), 7.33–7.30 (m, 2H), 7.24–7.18 (m, 1H), 7.08–6.96 (m, 2H), 6.42 (d, 1H, J=4.6 Hz), 3.82 (d, 2H, J=1.2 Hz), 3.68–3.61 (m, 2H), 2.77 (t, 2H, J=7.2 Hz); LCMS: ret. time: 23.00 min.; purity: 93%; MS (m/e): 424 (MH+).

reactant | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC1=CC(=CC=C1)O | C18H15FN4O3
reactant | 2-chloro-N4-[2-[(2-chloro-6-fluorobenzyl)thio]ethyl]-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NCCSCC1=C(C=CC=C1F)Cl)F | C13H11Cl2F2N3S
reactant | 3-aminophenol | NC=1C=C(C=CC1)O | C6H7NO
product | N4-[2-[(2-chloro-6-fluorobenzyl)thio]ethyl]-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine | ClC1=C(CSCCNC2=NC(=NC=C2F)NC2=CC(=CC=C2)O)C(=CC=C1)F | C19H17ClF2N4OS
